US07868188B2
N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]-5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonamide
A mixture of N-{5-[6-chloro-5-(5-chloro-1,3-dimethyl-1H-pyrazol-4-ylsulfonamido)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide (300 mg), a 6N aqueous hydrochloric acid solution (5 mL) and ethanol (5 mL) was stirred and heated to 80° C. for 5 hours. The mixture was cooled to room temperature and concentrated by evaporation. The residue was purified by preparative HPLC. There was thus obtained the title compound as a white solid (100 mg); 1H NMR Spectrum: (DMSOd6) 2.19 (s, 6H), 3.73 (s, 3H), 7.39 (br s, 2H), 7.66 (s, 1H), 8.25 (s, 1H); Mass Spectrum: M+H+ 433.

reactant | N-{5-[6-chloro-5-(5-chloro-1,3-dimethyl-1H-pyrazol-4-ylsulfonamido)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide | 300 mg | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)NS(=O)(=O)C=1C(=NN(C1Cl)C)C | C16H16Cl2N6O3S2
reactant | hydrochloric acid | 6N, 5 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]-5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonamide | 100 mg | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C=1C(=NN(C1Cl)C)C | C14H14Cl2N6O2S2
